US05268377
2-n-Butyl-4-hydroxymethylimidazole (33.3 g) is dissolved in methanol (50 ml), and thereto is added 18% hydrogen chloride-methanol solution (160 ml), and the mixture is evaporated under reduced pressure to remove the solvent. To the resulting residue is added toluene (150 ml), and thereto is added dropwise thionyl chloride (52 ml) under ice-cooling. The mixture is stirred at 50° C. for two hours, and concentrated to dryness under reduced pressure to give 2-n-butyl-4-chloromethylimidazole hydrochloride (58.3 g) as oil. Separately, diethyl N-acetylaminomalonate (140.8 g) is added to a solution of sodium ethylate (44 g) in ethanol (500 ml) with ice-cooling under argon atmosphere, and the mixture is stirred at 0° C. for 15 minutes. To the mixture is added dropwise a solution of 2-n-butyl-4-chloromethylimidazole hydrochloride obtained above in ethanol (250 ml), and the mixture is stirred at room temperature overnight. The mixture is evaporated under reduced pressure to remove the solvent, and to the resulting residue are added ethyl acetate (1 liter) and saturated aqueous ammonium chloride solution (500 ml). The aqueous layer is extracted with ethyl acetate, and the extract is combined with the organic layer, and evaporated. To the resulting residue is added 10% hydrochloric acid, and the mixture is neutralized with sodium hydrogen carbonate, and extracted with ethyl acetate to give 2 n butyl-4-{2-acetylamino-2,2-bis(ethoxycarbonyl)ethyl}imidazole (56.8 g) as powder.

reactant | 2-n-Butyl-4-hydroxymethylimidazole | 33.3 g | C(CCC)C=1NC=C(N1)CO | C8H14N2O
reactant | hydrogen chloride methanol | 160 ml | Cl.CO
solvent | methanol | 50 ml | CO | CH4O
product | 2-n-butyl-4-chloromethylimidazole hydrochloride | 58.3 g | Cl.C(CCC)C=1NC=C(N1)CCl | InChI=1S/C8H13ClN2.ClH/c1-2-3-4-8-10-6-7(5-9)11-8;/h6H,2-5H2,1H3,(H,10,11);1H
